US07557129B2
To a 0° C. slurry of 5-nitroindazole (5 g, 30.6 mmol), Et3N (4.7 mL, 33.7 mmol) and 4-dimethylaminopyridine (0.75 g, 6.1 mmol) in acetonitrile (60 mL) was added dropwise to a solution of di-tert-butyl dicarbonate (8 g, 36.8 mmol) in acetonitrile (40 mL). The resulting mixture was stirred for 30 min, then concentrated under reduced pressure. The residue was dissolved in Et2O (200 mL) and H2O (100 mL). The pH of the aqueous layer was adjusted to 2 using a 1N HCl solution. The organic phase was separated, dried (Na2SO4) and concentrated under reduced pressure to give 5-nitroindazole-1-carboxylic acid tert-butyl ester (7.8 g, 96%) as a yellow solid: TLC (30% EtOAc/hex), Rf=0.70; ES-LCMS (rel abundance) m/z 264 (MH+, 100%).

reactant | 5-nitroindazole | 30.6 mmol, 5 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | Et3N | 33.7 mmol, 4.7 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 36.8 mmol, 8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 6.1 mmol, 0.75 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 5-nitroindazole-1-carboxylic acid tert-butyl ester | 7.8 g, 96% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C12H13N3O4
